US06248766B1
3-[(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionic Acid
Using ethyl 3-[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionate and diphenylmethane bromide, the procedure of Example 21 was otherwise repeated to synthesize the title compound. Yield 39%.

reactant | ethyl 3-[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionate | SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCCC(=O)OCC | C16H17NO3S2
reactant | diphenylmethane bromide | [Br-].C1(=CC=CC=C1)CC1=CC=CC=C1
product | 3-[(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]propionic Acid | Yield 39% | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCCC(=O)O)C2=CC=CC=C2 | C27H23NO3S2
